US04591637
Preparation of N-(cyanomethyl)daunorubicin (N-cyanomethylDau)
A sample of 0.017 grams (0.21 mmol) of anhydrous sodium acetate and 15 μl (0.033 g, 0.197 mmol) of iodoacetonitrile were added to a solution of 0.065 grams (0.123 mmol) of daunorubicin, free base, in 1 ml of dry DMF, and the dark red mixture thus obtained stirred at room temperature in the dark for 44 hours until thin layer chromatography (TLC) run on aliquots of the reaction mixture showed conversion to the desired product. The reaction mixture was then evaporated at low temperature and pressure (about 35°, <5 mm), the residue dissolved in 10 ml chloroform/methanol (9/1) and the solution washed with acetic acid, water, and sodium bicarbonate and dried. The organic layer was evaporated, and the residue further purified to obtain 0.059 g (84%) of the desired N-cyanomethylDau. Daunorubicin (0.010 g) was recovered from the acetic acid extract.

reactant | sodium acetate | 0.21 mmol, 0.017 grams | C(C)(=O)[O-].[Na+]
reactant | iodoacetonitrile | 0.197 mmol, 15 μl, 0.033 g | ICC#N | C2H2IN
reactant | daunorubicin | 0.123 mmol, 0.065 grams | C[C@H]1[C@H]([C@H](C[C@@H](O1)O[C@H]2C[C@@](CC=3C2=C(C4=C(C3O)C(=O)C5=CC=CC(=C5C4=O)OC)O)(C(=O)C)O)N)O | C27H29NO10
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | N-(cyanomethyl)daunorubicin | CC1C(C(CC(O1)OC2CC(CC3=C(C4=C(C(=C23)O)C(=O)C5=C(C4=O)C=CC=C5OC)O)(C(=O)C)O)NCC#N)O | C29H30N2O10
